US06103907
(a) Diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate
0.48 g of sodium hydride (55% oil suspension) was added to a mixture of 2.78 g of diethyl 2-(3-phenylpropyl)malonate, 20 ml of toluene and 10 ml of N,N-dimethylacetamide, and the resulting mixture was stirred at room temperature for 30 minutes. Then, 2.45 g of 4-benzyloxybenzyl chloride was added to the reaction mixture, and the mixture was stirred at room temperature for 30 minutes and then at 60° C. for 30 minutes. After the reaction, ethyl acetate and water were added to the reaction mixture, and then the ethyl acetate layer was separated. The extract thus obtained was dried over anhydrous magnesium sulfate and concentrated. The residue thus obtained was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 3.91 g of the desired compound as a syrup.

reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | diethyl 2-(3-phenylpropyl)malonate | 2.78 g | C1(=CC=CC=C1)CCCC(C(=O)OCC)C(=O)OCC | C16H22O4
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-benzyloxybenzyl chloride | 2.45 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | Diethyl 2-(4-benzyloxybenzyl)-2-(3-phenylpropyl)malonate | 3.91 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)CCCC2=CC=CC=C2)C=C1 | C30H34O5
